US04517202
(E)-2-[(mixture of 3α and 3β)-tert-Butyldimethylsilyloxyoct-1-enyl]bicyclo[3,3,0]octan-6-one (290 mg), prepared as described in Reference Example 19 or 26 and predominantly in the 2β-configuration, was dissolved, with stirring, in anhydrous diethyl ether (5 ml) at -78° C. in an argon atmosphere, and the solution was then treated with a freshly prepared solution of lithium diisopropylamide in diethyl ether (1.1 ml; 0.9M) at -78° C. and the mixture was stirred at -78° C. for 10 minutes. The mixture was then treated with 4-methoxycarbonylbutanal (208 mg) at -78° C. and stirred for a further period of 10 minutes. The reaction mixture was then treated with a solution of glacial acetic acid (100 mg) in diethyl ether (0.1 ml) at -78° C., and was then warmed to 20° C. The mixture was then diluted with ethyl acetate (25 ml), washed with aqueous ammonium chloride solution (2M) and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate and concentrated in vacuo. The resulting oil (480 mg) was dissolved with stirring in dry benzene (5 ml) and then was treated with methanesulphonyl chloride (124 mg) and then, dropwise, with a solution of triethylamine (101 mg) in benzene (0.5 ml) at 20° C. The mixture was stirred for 1 hour at 20° C. and then was treated with 1,8-diazabicyclo[5,4,0]undec-7-ene (1.0 ml) and the resulting mixture was stirred for a further period of 1.5 hours at 20° C. The mixture was concentrated in vacuo to give a residue which was subjected to chromatography on a silica gel column using a mixture of hexane and ethyl acetate (1:9 v/v) as eluant, to give 6-[(E)-(mixture of 3α and 3β)-tert-butyldimethylsilyloxyoct-1-enyl]3-[(E)-4-methoxycarbonylbutylidene]-bicyclo[3,3,0]octan-2-one (92.4 mg), predominantly in the 6β-configuration, otherwise known as (±)-methyl (5E,13E)-(9S), [mixture of (15R) and (15S)]-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-prosta-5,13-dienoate.

reactant | bicyclo[3,3,0]octan-6-one | 290 mg | C12CCCC2C(CC1)=O | C8H12O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-methoxycarbonylbutanal | 208 mg | COC(=O)CCCC=O | C6H10O3
reactant | acetic acid | 100 mg | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.9M, 1.1 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.1 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-[(E)-4-methoxycarbonylbutylidene]-bicyclo[3,3,0]octan-2-one | 92.4 mg | COC(=O)CCC\C=C/1\C(C2CCCC2C1)=O | C14H20O3
